US03937824
Preparation of 1-Chloro-2-(N-phenyl-carbamoyloxy)-2-propoxyiminoethane
N-Propoxychloroacetamide (15.1 grams; 0.1 mole), benzene (80 ml) and dibutyltin dilaurate (1 drop) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. Phenylisocyanate (12.1 grams; 0.12 mole) dissolved in benzene (25 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 20 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-(N-phenylcarbamoyloxy)-2-propoxyiminoethane.

reactant | N-Propoxychloroacetamide | 0.1 mole, 15.1 grams | C(CC)ONC(CCl)=O | C5H10ClNO2
reactant | Phenylisocyanate | 0.12 mole, 12.1 grams | C1(=CC=CC=C1)N=C=O | C7H5NO
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N-phenylcarbamoyloxy)-2-propoxyiminoethane | ClCC(=NOCCC)OC(NC1=CC=CC=C1)=O | C12H15ClN2O3
